US08859591B2
To a 0° C. solution of 4-(trifluoromethyl)-1H-pyrazole (1 g, 7 mmol) in N,N-dimethylformamide (10 mL) was added 60 wt % sodium hydride (132 mg, 3.31 mmol). The mixture was stirred at 0° C. for 30 minutes, 4-fluorobenzonitrile (979 mg, 8.08 mmol) was added and the reaction was heated to 80° C. overnight. Saturated ammonium chloride was added and the mixture extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)benzonitrile (1.2 g, 72%). 1H NMR (400 MHz, CD3OD, δ): 8.84 (s, 1H), 7.96 (s, 1H), 7.95 (d, 2H), 7.78 (d, 2H).

reactant | 4-(trifluoromethyl)-1H-pyrazole | 7 mmol, 1 g | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | sodium hydride | 3.31 mmol, 132 mg | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 8.08 mmol, 979 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)benzonitrile | 1.2 g, 72% | FC(C=1C=NN(C1)C1=CC=C(C#N)C=C1)(F)F | C11H6F3N3
